US04310677
20 parts of a 30 percent strength by weight solution of sodium methylate in methanol are added to 21.6 parts of 5,7-dichloroisatin in 300 parts of methanol at -10° C., resulting in a dark violet suspension of a bulky precipitate. 7 parts of 50 percent strength by weight hydrogen peroxide solution are then added at -3° C. and thereafter the mixture is stirred for one hour at room temperature. The solution is concentrated and the crystalline residue is mixed with water and filtered off. 17.6 parts (80% of theory) of methyl 3,5-dichloroanthranilate, of melting point 62°-63° C., are obtained.

reactant | sodium methylate | C[O-].[Na+]
reactant | 5,7-dichloroisatin | ClC=1C=C2C(C(NC2=C(C1)Cl)=O)=O | C8H3Cl2NO2
reactant | hydrogen peroxide | OO | H2O2
reactant | methanol | CO | CH4O
product | methyl 3,5-dichloroanthranilate | 80% | ClC1=C(C(C(=O)OC)=CC(=C1)Cl)N | C8H7Cl2NO2
